US07160882B2
a) 4-(2-amino-phenyl)-heptan-4-ol
90.0 mL (180.00 mmol) of propylmagnesium chloride (2 M in ether) are added dropwise within 30 min. to a solution of 7.00 mL (54.04 mmol) methyl anthranilate in abs. THF (70 mL) at 0° C. The mixture is stirred for 1 h at RT and then combined with 100 mL 3 M aqueous ammonium chloride solution and EtOAc. The phases are separated and the aqueous phase is exhaustively extracted with EtOAc. The combined org. phases are washed with aqueous KHCO3 and sat. aqueous NaCl and dried with sodium sulphate. The crude product is used in the next reaction step without any further purification.

reactant | propylmagnesium chloride | 180.00 mmol, 2 M, 90.0 mL | C(CC)[Mg]Cl
reactant | methyl anthranilate | 54.04 mmol, 7.00 mL | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
reactant | THF | 70 mL | C1CCOC1 | C4H8O
reactant | ammonium chloride | 3 M, 100 mL | [Cl-].[NH4+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(2-amino-phenyl)-heptan-4-ol | NC1=C(C=CC=C1)C(CCC)(CCC)O | C13H21NO
